US09216975B2
Preparation of 5-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one 11 (scheme 5)
To a solution of 2-amino-3-nitrophenol (4.62 g, 30 mmol) in DMF (20 ml) ethylbromoacetate (3.3 ml, 30 mmol) and K2CO3 (4.56 g, 33 mmol) were added and the reaction was stirred at room temperature for 20 hours. The solvent was evaporated and the crude was dissolved in AcOEt (30 ml) and washed with water (1×20 ml) and brine. The organic phase was dried over sodium sulfate and concentrated under vacuum. The purification of the crude residue by crystallization from ether/hexane gave 4.65 g of a yellow solid. Yield: 80%. 1HNMR (DMSO, 200 MHz) δ 4.74 (2H, s), 7.15 (1H, t, J=8.4 Hz), 7.41 (1H, dd, J=8.2 Hz, J′=1.6 Hz), 7.77 (1H, dd, J=8.4 Hz, J′=1.2 Hz), 10.38 (1H, bs)

reactant | 2-amino-3-nitrophenol | 30 mmol, 4.62 g | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | DMF | 30 mmol, 20 ml | CN(C)C=O | C3H7NO
reactant | K2CO3 | 33 mmol, 4.56 g | C(=O)([O-])[O-].[K+].[K+]
product | 5-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one | 4.65 g, Yield: 80% | [N+](=O)([O-])C1=CC=CC=2OCC(NC21)=O | C8H6N2O4
